US08487108B2
A solution of 2-chloro-1-methoxybicyclo[2.2.2]oct-5-ene-2-carbonitrile (14.0 g, 71 mmol) and Na2S.9H2O (34.0 g, 142 mmol) in ethanol (175 mL) was heated under reflux for 14 h. The solution was poured into H2O and extracted three times with ether. The combined extracts were washed with saturated aqueous NH4Cl solution, H2O, and brine. The organic layer was dried over Na2SO4, concentrated to the residue. The crude product was purified by column chromatography to afford 1-methoxybicyclo[2.2.2]oct-5-en-2-one (5.7 g, 57%). 1H NMR (CDCl3, 400 MHz) δ 6.46 (dd, 1H), 6.22 (d, 1H), 3.50 (s, 3H), 2.94 (m, 1H), 2.11 (m, 2H), 1.53-1.92 (m, 4H).

reactant | 2-chloro-1-methoxybicyclo[2.2.2]oct-5-ene-2-carbonitrile | 71 mmol, 14.0 g | ClC1(C2(C=CC(C1)CC2)OC)C#N | C10H12ClNO
reactant | H2O | O | H2O
solvent | ethanol | 175 mL | C(C)O | C2H6O
product | 1-methoxybicyclo[2.2.2]oct-5-en-2-one | 5.7 g, 57% | COC12C(CC(C=C1)CC2)=O | C9H12O2
